US08859784B2
To a 3-L 3-neck flask jacketed at 20° C. and stirred at 300 rpm was added 500 mL of dH2O and 20 mL of a 25 wt % octahydrocyclopenta[c]pyrrole solution in water. The pH was adjusted to approximately 7.6 with concentrated H3PO4 to give a colorless, homogeneous solution, to which 2.0 mL of A. niger catalase suspension (Novozyme; “Catalyzyme 101”) and 5.0 g of monoamine oxidase powder of the polypeptide of SEQ ID NO: 16 (prepared by the method of Example 3) were added to give a pale yellow solution. The head space of the vessel was swept with dry air at approximately 0.2 L/min. The pH of the reaction was maintained at 7.5 via feedback controlled addition of the 25 wt % octahydrocyclopenta[c]pyrrole solution in water in 20-100 μL portions. The dimer of (3aR,6aS) octahydrocyclopenta[c]pyrrole to precipitated from the reaction and the reaction mixture became a white slurry. After 380 mL of the 25 wt % octahydrocyclopenta[c]pyrrole solution in water had been added, the product was separated from the reaction mixture via steam distillation (still head temperature ˜98° C.). The receiver pot contained a suspension of the dimer of (3aS,6aR)-1,3a,4,5,6,6a-hexahydrocyclopenta[c]pyrrole in water. 1.1-1.2 equivalent of concentrated HCl was added to the receiver pot break the dimer and give a homogeneous solution of (3aS,6aR)-1,3a,4,5,6,6a-hexahydrocyclopenta[c]pyrrole hydrochloride in water. This solution was used directly to make (1S,3aR,6aS)-octahydrocyclopenta[c]pyrrole-1-carbonitrile in Example 27.

reactant | octahydrocyclopenta[c]pyrrole | C1NCC2C1CCC2 | C7H13N
reactant | H3PO4 | OP(=O)(O)O | H3O4P
reactant | HCl | 1.1-1.2 equivalent | Cl | ClH
solvent | water | O | H2O
product | (3aS,6aR)-1,3a,4,5,6,6a-hexahydrocyclopenta[c]pyrrole hydrochloride | Cl.C1N=C[C@@H]2[C@H]1CCC2 | InChI=1S/C7H11N.ClH/c1-2-6-4-8-5-7(6)3-1;/h4,6-7H,1-3,5H2;1H/t6-,7+;/m1./s1
